US07674814B2
EP 308 341 teaches an improved large-scale synthesis of perindopril in the form of the t-butylamine salt. (2S,3aS,7aS)-octahydroindole-2-carboxylic acid benzyl ester p-toluensulfonic salt and N-((S)-1-carbethoxybutyl)-L-alanine are reacted in the presence of triethyl amine, N,N-dicyclohexylcarbodiimide and 1-hydroxybenztriazole. After completion of the reaction, perindopril benzyl ester is obtained, which is reduced, lyophilized and then converted into a salt with t-butylamine in ethyl acetate.

reactant | perindopril | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O | C19H32N2O5
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
reactant | N-((S)-1-carbethoxybutyl)-L-alanine | C(=O)(OCC)[C@H](CCC)N[C@@H](C)C(=O)O | C10H19NO4
reactant | 1-hydroxybenztriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | perindopril benzyl ester | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@@H]1C(=O)OCC3=CC=CC=C3 | C26H38N2O5
